US04477553
(Resorcinol-benzaldehyde resin)
To a solution of 550 g. of resorcinol in 1 l. of ethanol were added 530 g. of benzaldehyde and 0.5 ml. of 35% conc. hydrochloric acid as a catalyst. The resulting mixture was heated under reflux for 90 minutes with stirring and, after completion of the reaction, the reaction mixture was poured into 5 l. of a cold water to give a pale brown powdery resin.

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | ethanol | C(C)O | C2H6O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
catalyst | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | Resorcinol-benzaldehyde | C1(O)=C(C(O)=CC=C1)C1=CC=CC=C1C=O | C13H10O3
